US03959259
290 g. (2.35 moles) of 2-thienylacetonitrile and the equivalent amount of alcoholic hydroxylamine solution are stirred overnight to give 2-thienylacetamidoxime. By concentrating, taking up the residue in anhydrous chloroform, filtering and again concentrating, the crude amidoxime is obtained as a syrup. The syrupy residue is dissolved in 1,000 ml. of anhydrous dioxane and the solution is first treated by the dropwise addition with cooling of 854 g. of trichloroacetyl chloride, then with 380 ml. of pyridine. The mixture is stirred overnight at room temperature. The dioxane is distilled off in a rotary evaporator and 1 liter of water is added to the residue. An oily substance separates which is treated with ether. The ether solution is repeatedly washed with water, then neutralized with saturated sodium bicarbonate solution, again washed with water and dried with magnesium sulfate. After evaporation, the residue is treated with 750 ml. of toluene and refluxed for about 2 hours. Only a small amount of water is removed. The toluene solution is treated with activated carbon, filtered, concentrated and the residue is distilled under vacuum. 258 g. of 5-(trichloromethyl)-3-(2-thienylmethyl)-1,2,4-oxadiazole are obtained, b.p. 0.01mm 119°- 122°.

reactant | 2-thienylacetonitrile | 2.35 moles | S1C(=CC=C1)CC#N | C6H5NS
reactant | hydroxylamine | NO | H3NO
product | 2-thienylacetamidoxime | S1C(=CC=C1)CC(N)=NO | C6H8N2OS
